US04564612
To a stirred mixture of 50 ml of N,N-dimethylformamide and 0.5 g of sodium hydride (60% in oil) is added 4 g of 3(R)-phthalimido-2,3-dihydro-1,5(5H)-benzothiazepin-4-one obtained in Reference Example 2 at ice bath temperature. After 5 minutes, 2 g of tert-butyl chloroacetate is added at ice bath temperature. The resulting mixture is stirred in an ice bath for b 15 minutes and diluted with ice water (200 ml). The deposited crystals are collected by filtration, dried and purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to give 4 g of tert-butyl 4-oxo-3(R)-phthalimido-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate as colorless crystals. Recrystallization of a part of the crystals from ethyl ether yields colorless prisms, m.p. 181°-184° C.

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 3(R)-phthalimido-2,3-dihydro-1,5(5H)-benzothiazepin-4-one | 4 g | C1(C=2C(C(N1[C@H]1CSC3=C(NC1=O)C=CC=C3)=O)=CC=CC2)=O | C17H12N2O3S
reactant | tert-butyl chloroacetate | 2 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-oxo-3(R)-phthalimido-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 4 g | O=C1[C@H](CSC2=C(N1CC(=O)OC(C)(C)C)C=CC=C2)N2C(C=1C(C2=O)=CC=CC1)=O | C23H22N2O5S
